US06025352
4-Chloromethyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole
Thionyl chloride (1.5 mL) was mixed with N,N-dimethylformamide (15 mL) and stirred at room temperature for 30 min. The resulting solution was then transferred via syringe to a solution of 4-hydroxymethyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole (1.69 g, 5.36 mmol) in N,N-dimethylformamide (5 mL). After 2 h, the mixture was partitioned between ethyl acetate and water. The organic solution was washed with 5% aqueous sodium bicarbonate, dried over sodium sulfate, and concentrated to dryness, affording 1.78 g of the title compound. 1H NMR (CDCl3) δ3.05 (2H), 3.35 (2H), 4.70 (2H), 7.50-7.85 (5H), 8.82 (s, 1H).

reactant | Thionyl chloride | 1.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxymethyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole | 5.36 mmol, 1.69 g | OCC=1N=CSC1SCCS(=O)(=O)C1=CC=CC=C1 | C12H13NO3S3
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-Chloromethyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole | 1.78 g | ClCC=1N=CSC1SCCS(=O)(=O)C1=CC=CC=C1 | C12H12ClNO2S3
